US07635715B2
Step B: Preparation of 2-Methyl-2-(4-(trifluoromethyl)phenyl)propanoic acid
A solution of methyl 2-methyl-2-(4-(trifluoromethyl)phenyl)propanoate (1528 mg, 6206 μmol) in MeOH (60 mL) and water (15 mL), was treated with KOH (1741 mg, 31028 μmol). The reaction was heated to reflux. After 18 hours, the reaction was cooled to 23° C. and concentrated in vacuo. The crude mixture was partitioned between water/diethyl ether (100 mL each). The aqueous layer was separated and washed with diethyl ether (100 mL). The combined ether layers were extracted with a 1N NaOH solution (25 mL). The combined aqueous washes were acidified with concentrated HCl to pH=2 and were then extracted with EtOAc (3×100 mL). The combined EtOAc layers were dried over MgSO4 and concentrated in vacuo to afford 1323 mg of the title compound. MS m/e=233.1 (M+H)+.

reactant | methyl 2-methyl-2-(4-(trifluoromethyl)phenyl)propanoate | 6206 μmol, 1528 mg | CC(C(=O)OC)(C)C1=CC=C(C=C1)C(F)(F)F | C12H13F3O2
reactant | KOH | 31028 μmol, 1741 mg | [OH-].[K+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 2-Methyl-2-(4-(trifluoromethyl)phenyl)propanoic acid | 1323 mg | CC(C(=O)O)(C)C1=CC=C(C=C1)C(F)(F)F | C11H11F3O2
